US04906402
(b) 4-[4-Octyloxyphenyl]benzoyl Chloride (OPBC)
4-[4-Octyloxyphenyl]benzoic acid (OPBA) was converted into its acid chloride, OPBC, by heating it at reflux with oxalyl chloride after which excess oxalyl chloride was allowed to distil out and the residue taken up in ethanol free chloroform.

reactant | 4-[4-Octyloxyphenyl]benzoic acid | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C(=O)O)C=C1 | C21H26O3
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 4-[4-Octyloxyphenyl]benzoyl Chloride | C(CCCCCCC)OC1=CC=C(C=C1)C1=CC=C(C(=O)Cl)C=C1 | C21H25ClO2
